US08664220B2
Step 5: [1-(4-Bromo-phenyl)-cyclopropyl]-acetic acid
[1-(4-Bromo-phenyl)-cyclopropyl]-acetonitrile (7.56 g, 32.2 mmol) and KOH (7.56 g, 128.7 mmol) were dissolved in EtOH (54 mL) and H2O (6.75 mL) then the reaction was heated to 110° C. for 16 hours. The reaction was cooled then submitted to acidic aqueous workup to obtain the title compound which was used in the next step without further purification.

reactant | [1-(4-Bromo-phenyl)-cyclopropyl]-acetonitrile | 32.2 mmol, 7.56 g | BrC1=CC=C(C=C1)C1(CC1)CC#N | C11H10BrN
reactant | KOH | 128.7 mmol, 7.56 g | [OH-].[K+]
reactant | H2O | 6.75 mL | O | H2O
solvent | EtOH | 54 mL | CCO | C2H6O
product | [1-(4-Bromo-phenyl)-cyclopropyl]-acetic acid | BrC1=CC=C(C=C1)C1(CC1)CC(=O)O | C11H11BrO2
